* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : 4input0x000288_X1                       *
* Netlisted  : Sat May 23 01:04:48 2026                     *
* Pegasus Version: 21.31-s008 Thu Jan 13 15:55:10 PST 2022  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: 4input0x000288_X1                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt 4input0x000288_X1 A B C D VDD VSS Y
** N=12 EP=7 FDC=12
M0 12 D Y VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=148 $Y=340
M1 11 C 12 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=340
M2 VDD 4 11 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=340
M3 10 A 4 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=340
M4 VDD 2 10 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=1048 $Y=340
M5 2 B VDD VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=1228 $Y=340
M6 VSS D Y VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=148 $Y=52
M7 Y C VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=52
M8 VSS 4 Y VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=52
M9 4 A VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=52
M10 VSS 2 4 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=1048 $Y=52
M11 2 B VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=1228 $Y=52
.ends 4input0x000288_X1
