.SUBCKT 4input0x0002_X2 A B C D VDD VSS Y
* Canonical: 0b0000000000000010
* Function: Y = binate [small-gate search, 10 TR]
* Transistors: 10
MP0 sg4 A VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP1 sg4 B VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP2 sg4 C VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP6 sg6_ps0 D VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP7 Y sg4 sg6_ps0 VDD pmos_rvt W=92.0n L=16n nfin=4
MN3 sg4 A sg4_ns0 VSS nmos_rvt W=92.0n L=16n nfin=4
MN4 sg4_ns0 B sg4_ns1 VSS nmos_rvt W=92.0n L=16n nfin=4
MN5 sg4_ns1 C VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN8 Y D VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN9 Y sg4 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
.ENDS
