.SUBCKT 4input0x0280_X1 A B C D VDD VSS Y
* Canonical: 0b0000000000011000
* Function: Y = binate [recursive NAND/NOR, 16 TR]
* Transistors: 16
MP3 bgpa B VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP4 bg C bgpa VDD pmos_rvt W=46.0n L=16n nfin=2
MP5 bg D bgpa VDD pmos_rvt W=46.0n L=16n nfin=2
MbcP2 npbc0 B VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MbcP4 npbc3 D VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MbcP5 npbc0 C npbc3 VDD pmos_rvt W=46.0n L=16n nfin=2
MbcP6 npbc1 A npbc0 VDD pmos_rvt W=46.0n L=16n nfin=2
MbcP7 Y bg npbc1 VDD pmos_rvt W=46.0n L=16n nfin=2
MN0 bg B VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN1 bg C bgnb VSS nmos_rvt W=46.0n L=16n nfin=2
MN2 bgnb D VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MbcN1 Y B nsbc0 VSS nmos_rvt W=46.0n L=16n nfin=2
MbcN2 nsbc0 D VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MbcN3 nsbc0 C VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MbcN4 Y A VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MbcN5 Y bg VSS VSS nmos_rvt W=46.0n L=16n nfin=2
.ENDS
