.SUBCKT 4input0x0777_X1 A B C D VDD VSS Y
* Canonical: 0b0000011101110111
* Function: Y = (C+D)·(A+B) [4 lits]
* Transistors: 10
MMP1 npM0 C VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMP2 Y_bar D npM0 VDD pmos_rvt W=46.0n L=16n nfin=2
MMP4 npM3 A VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMP5 Y_bar B npM3 VDD pmos_rvt W=46.0n L=16n nfin=2
MP_inv Y Y_bar VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMN1 Y_bar C nsM0 VSS nmos_rvt W=46.0n L=16n nfin=2
MMN2 Y_bar D nsM0 VSS nmos_rvt W=46.0n L=16n nfin=2
MMN3 nsM0 A VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MMN4 nsM0 B VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN_inv Y Y_bar VSS VSS nmos_rvt W=46.0n L=16n nfin=2
.ENDS
