.SUBCKT 4input0x1_X1 A B C D VDD VSS Y
* Canonical: 0b0000000000000001
* Function: Y = A·B·C·D [4 lits]
* Transistors: 10
MMP0 Y_bar A VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMP1 Y_bar B VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMP2 Y_bar C VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMP3 Y_bar D VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MP_inv Y Y_bar VDD VDD pmos_rvt W=46.0n L=16n nfin=2
MMN3 Y_bar A nsM0 VSS nmos_rvt W=46.0n L=16n nfin=2
MMN4 nsM0 B nsM1 VSS nmos_rvt W=46.0n L=16n nfin=2
MMN5 nsM1 C nsM2 VSS nmos_rvt W=46.0n L=16n nfin=2
MMN6 nsM2 D VSS VSS nmos_rvt W=46.0n L=16n nfin=2
MN_inv Y Y_bar VSS VSS nmos_rvt W=46.0n L=16n nfin=2
.ENDS
